US08389555B2
STEP D: Preparation of N-(4-hydroxybutyl)benzothiazole-2-carboxamide
1 g (5 mmol) benzothiazol-2-carbonyl chloride, 542 mg (6 mmol) 4-aminobutan-1-ol and 1.4 g (10 mmol) K2CO3 in acetonitrile is stirred for three days at room temperature. The solvent is evaporated and the product is dissolved in ethyl acetate and washed with 2N HCl and water. After evaporation of the solvent the yellow semisolid is crystallized from ethyl acetate.

reactant | benzothiazol-2-carbonyl chloride | 5 mmol, 1 g | S1C(=NC2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | 4-aminobutan-1-ol | 6 mmol, 542 mg | NCCCCO | C4H11NO
reactant | K2CO3 | 10 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(4-hydroxybutyl)benzothiazole-2-carboxamide | OCCCCNC(=O)C=1SC2=C(N1)C=CC=C2 | C12H14N2O2S
